US04743586
A 50 g portion of ethyl acetoacetate in 60 ml of acetic acid was stirred at 0° C. to 10° C., as a solution of 30 g of sodium nitrite in 50 ml of water was added dropwise. When addition was complete, the mixture was stirred at 0° to 10° C. for 30 minutes and then diluted with 300 ml of ice water. The mixture was stirred for 2 hours and then extracted with 500 ml of dichloromethane. The dichloromethane layer was separated, washed with two 500 ml portions of ice water, dried, filtered and evaporated in vacuo. The residual oil was stirred vigorously with 200 ml of hexane and the resulting solid collected, washed with hexane and air dried, giving 31.4 g of 2,3-dioxobutyric acid, ethyl ester, (Z)-2-oxime.

reactant | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | sodium nitrite | 30 g | N(=O)[O-].[Na+]
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
solvent | water | 50 ml | O | H2O
product | 2,3-dioxobutyric acid, ethyl ester | 31.4 g | O=C(C(=O)OCC)C(C)=O | C6H8O4
